US07932271B2
[4-[(4-Chlorophenylthio)(2,5-difluorophenyl)methyl]-5-methylpyridin-2-yl]methanol
To a tetrahydrofuran solution (3 ml) of 2-[(t-butyldimethylsilyloxy)methyl]-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]-5-methylpyridine (200 mg, 0.395 mmol) was added tetrabutylammonium fluoride (a 1.0M tetrahydrofuran solution, 593 μl, 0.593 mmol). The resulting mixture was stirred for 20 minutes. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=3:1 eluate was concentrated under reduced pressure to give the title compound (150 mg, 0.384 mmol, 97%) as a colorless oil.

reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | 2-[(t-butyldimethylsilyloxy)methyl]-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]-5-methylpyridine | 0.395 mmol, 200 mg | [Si](C)(C)(C(C)(C)C)OCC1=NC=C(C(=C1)C(C1=C(C=CC(=C1)F)F)SC1=CC=C(C=C1)Cl)C | C26H30ClF2NOSSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 1.0M | O1CCCC1 | C4H8O
reactant | Water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | [4-[(4-Chlorophenylthio)(2,5-difluorophenyl)methyl]-5-methylpyridin-2-yl]methanol | 0.384 mmol, 150 mg, 97% | ClC1=CC=C(C=C1)SC(C1=CC(=NC=C1C)CO)C1=C(C=CC(=C1)F)F | C20H16ClF2NOS
